US07615642B2
1-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-yl ethylcarbamate
To a solution of 1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-ol (100 mg, 0.23 mmol) in 2 mL of dry dichloromethane was added triethylamine (3 uL, 0.023 mmol) and ethyl isocyanate (0.11 mL, 1.4 mmol), respectively. The reaction mixture was stirred at room temperature for 1 hour and then concentrated. The crude product was purified by LCMS using high pH column 40-70% acetonitrile gradient to give 100 mg (85%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.00 (t, J=7.23 Hz, 3 H), 1.48-1.57 (m, 2 H), 1.59 (s, 9 H), 1.63-1.83 (m, 4 H), 2.04 (d, J=26.56 Hz, 2 H), 2.18-2.31 (m, 1 H), 3.00 (q, J=7.23 Hz, 2 H), 3.63 (dd, J=9.18, 5.08 Hz, 2H), 4.01-4.09 (m, 2 H), 4.42 (d, J=7.62 Hz, 2 H), 7.70-7.75 (m, 1 H), 7.79-7.84 (m, 1 H), 8.10 (s, 1 H); MS (APPI) (M+H)+=513.3; Anal. Calc. for C24H34F2N4O4S+1.1 TFA: C, 49.32; H, 5.54; N, 8.78. Found: C, 49.31; H, 5.42; N, 8.59.

reactant | 1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-ol | 0.23 mmol, 100 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2CC(C2)O | C21H29F2N3O3S
reactant | triethylamine | 0.023 mmol, 3 uL | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 1.4 mmol, 0.11 mL | C(C)N=C=O | C3H5NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-yl ethylcarbamate | 100 mg, 85% | C(C)NC(OC1CN(C1)S(=O)(=O)C1=CC2=C(N(C(=N2)C(C)(C)C)CC2CCC(CC2)(F)F)C=C1)=O | C24H34F2N4O4S
